US08835420B2
Step A: (S)-4-Chloro-6-((1-(1-methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-2-(methylthio)pyrimidine-5-carbonitrile
(S)-1-(1-Methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine 2,2,2-trifluoroacetate (1562 mg, 4.23 mmol) in THF (27.5 mL) along with 4,6-dichloro-2-(methylthio)pyrimidine-5-carbonitrile (931 mg, 4.23 mmol) and Et3N (1297 μL, 9.31 mmol) were added to a pear-shaped flask. The resulting mixture was stirred at room temperature for 2 hours and then concentrated to give the title compound, which was used in next step without further purification. ESI-MS m/z [M+H]+ calc'd for C20H19ClN8S, 439.11. found 439.4.

reactant | (S)-1-(1-Methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine 2,2,2-trifluoroacetate | 4.23 mmol, 1562 mg | FC(C(=O)O)(F)F.CN1C=CC2=NC(=C(C=C21)C2=CC=NN2C)[C@H](C)N
reactant | 4,6-dichloro-2-(methylthio)pyrimidine-5-carbonitrile | 4.23 mmol, 931 mg | ClC1=NC(=NC(=C1C#N)Cl)SC | C6H3Cl2N3S
reactant | Et3N | 9.31 mmol, 1297 μL | CCN(CC)CC | C6H15N
solvent | THF | 27.5 mL | C1CCOC1 | C4H8O
product | (S)-4-Chloro-6-((1-(1-methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-2-(methylthio)pyrimidine-5-carbonitrile | ClC1=NC(=NC(=C1C#N)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)C2=CC=NN2C)SC | C20H19ClN8S
